data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=CC2(CC)CC1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=CC(CC)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=CC(CC)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=CC(CC)C1CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=CC(CC)C1CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=CC(CC)C1CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "O=C(c1cccc(Cl)c1)C1C2CCC1C2", "products": "[O][C](c1cccc(Cl)c1)C1C2CCC1C2"}, {"reactants": "[O][C](c1cccc(Cl)c1)C1C2CCC1C2", "products": "[O]C(=CC1C[CH]CC1)c1cccc(Cl)c1"}, {"reactants": "[O]C(=CC1C[CH]CC1)c1cccc(Cl)c1", "products": "OC(=CC1C=CCC1)c1cccc(Cl)c1"}, {"reactants": "OC(=CC1C=CCC1)c1cccc(Cl)c1", "products": "O=C(CC1C=CCC1)c1cccc(Cl)c1"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1cc(C)c(N(C)C(=O)C2=CCCC2)c(Br)c1.[Pd]", "products": "Cc1cc(C)c(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1"}, {"reactants": "Cc1cc(C)c(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1", "products": "Cc1cc(C)c2c(c1)N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "Cc1cc(C)c2c(c1)N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "Cc1cc(C)c2c(c1)N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Cc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1F", "products": "Cc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1F"}, {"reactants": "Cc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1F", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(C)c1F"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(C)c1F", "products": "Cc1cccc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c1F"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "Cc1ccc(C2(O)C(=O)CC3CCC2(C)C3(C)C)c(Cl)c1.[H+]", "products": "Cc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c(Cl)c1"}, {"reactants": "Cc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c(Cl)c1", "products": "Cc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c(Cl)c1.O"}, {"reactants": "Cc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c(Cl)c1", "products": "Cc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c(Cl)c1"}, {"reactants": "Cc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c(Cl)c1", "products": "CC1=C(c2ccc(C)cc2Cl)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(C)cc2Cl)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2ccc(C)cc2Cl)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(C)cc2Cl)CCC(C(=O)[OH2+])C1(C)C", "products": "Cc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c(Cl)c1"}, {"reactants": "Cc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c(Cl)c1", "products": "Cc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c(Cl)c1"}, {"reactants": "Cc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c(Cl)c1", "products": "Cc1ccc(C2CCC3C(=O)OC2(C)C3(C)C)c(Cl)c1.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1cc(OC)cc(C(=O)C2C3CCC2C3)c1", "products": "COc1cc(OC)cc([C]([O])C2C3CCC2C3)c1"}, {"reactants": "COc1cc(OC)cc([C]([O])C2C3CCC2C3)c1", "products": "COc1cc(OC)cc(C([O])=CC2C[CH]CC2)c1"}, {"reactants": "COc1cc(OC)cc(C([O])=CC2C[CH]CC2)c1", "products": "COc1cc(OC)cc(C(O)=CC2C=CCC2)c1"}, {"reactants": "COc1cc(OC)cc(C(O)=CC2C=CCC2)c1", "products": "COc1cc(OC)cc(C(=O)CC2C=CCC2)c1"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(Cl)C1Cl.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(Cl)C1Cl.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(Cl)C1Cl", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CC(Cl)C2Cl.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CC(Cl)C2Cl", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(CC(Cl)C2Cl)C(=O)CC41c2ccccc2N(C)C31"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1cc(F)cc(N(C)C(=O)C2=CCCC2)c1Br.[Pd]", "products": "COc1cc(F)cc(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]"}, {"reactants": "COc1cc(F)cc(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]", "products": "COc1cc(F)cc2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "COc1cc(F)cc2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "COc1cc(F)cc2c1N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
